US04161521
Phe-Thr-Ser-OMe.TFA, 6.4 g., and BOC-Thr-HSE, 4.6 g., is suspended in 100 ml. of methylene chloride. The reaction mixture is adjusted to a pH of 7 by the addition of triethylamine. After stirring the reaction mixture for 11/2 hours at 25° C., the crude product is isolated by filtration. The crude product is partially dissolved in 50 ml. methanol and precipitated by the addition of 450 ml. of ether. The partially purified product is isolated by filtration and this precipation process is repeated four times to give substantially pure BOC-Thr-Phe-Thr-Ser-OMe, 6.04 g.

reactant | Phe-Thr-Ser-OMe.TFA | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CO)C(=O)OC.FC(F)(F)C(=O)O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | BOC-Thr-Phe-Thr-Ser-OMe | N([C@@H]([C@H](O)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OC(C)(C)C | C26H40N4O10
